US06521663B2
PhCF2CO2H
A suspension of ethyl 2,2-difluoro-2-phenylacetate (6.0 g, 30 mmol), as prepared in the preceding step, in 1 N NaOH (36 mL, 36 mmol) was stirred at ambient temperature. After 36 hours, the reaction became almost homogeneous. The mixture was acidified with 1N HCl (36 mL), and extracted with DCM twice. The extracts were combined, washed with H2O, dried over Na2SO4, and concentrated to give the title compound (3.85 g, 81% yield) as a pale yellow solid, that was used without further purification.

reactant | ethyl 2,2-difluoro-2-phenylacetate | 30 mmol, 6.0 g | FC(C(=O)OCC)(C1=CC=CC=C1)F | C10H10F2O2
reactant | NaOH | 36 mmol, 1 N, 36 mL | [OH-].[Na+]
reactant | HCl | 1N, 36 mL | Cl | ClH
product | PhCF2CO2H | 3.85 g, 81% yield | C1(=CC=CC=C1)C(F)(F)C(=O)O | C8H6F2O2
